US07601844B2
tert-Butyl 4-(4-chloro-3-methoxyphenyl)-4-hydroxy-3,3-dimethylpiperidine-1-carboxylate (1.36 g, 2.39 mmol) was added 4N HCl in dioxane (10 mL) and stirred for 30 min. The solvents were removed in vacuo and the resulting solids were dried azeotropically with toluene and then further dried under high vacuum to afford 4-(4-chloro-3-methoxyphenyl)-3,3-dimethylpiperidin-4-ol hydrochloride as a white solid.

reactant | tert-Butyl 4-(4-chloro-3-methoxyphenyl)-4-hydroxy-3,3-dimethylpiperidine-1-carboxylate | 2.39 mmol, 1.36 g | ClC1=C(C=C(C=C1)C1(C(CN(CC1)C(=O)OC(C)(C)C)(C)C)O)OC | C19H28ClNO4
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(4-chloro-3-methoxyphenyl)-3,3-dimethylpiperidin-4-ol hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(C(CNCC1)(C)C)O)OC | InChI=1S/C14H20ClNO2.ClH/c1-13(2)9-16-7-6-14(13,17)10-4-5-11(15)12(8-10)18-3;/h4-5,8,16-17H,6-7,9H2,1-3H3;1H
